US09315485B2
Synthesis of 2-propyl-1,3-dioxane
Examples 5-7 were carried out using the apparatus described above. Prior to each example, the column was heated to 100° C. with boiling water as described above. Butyraldehyde was fed through the bottom feed plate and a mixture of 1,3-propanediol and 500 ppmw phosphoric acid was fed through the upper feed plate at rates described in Table II. A butyraldehyde/water azeotrope was condensed overhead at 73° C. The basepot reached a maximum temperature of 165° C. Material was removed from the basepot throughout the run. The material separated into two phases, each of which was analyzed by gas chromatography. The results are listed in Table II.

reactant | Butyraldehyde | C(CCC)=O | C4H8O
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | butyraldehyde water | C(CCC)=O.O
solvent | water | O | H2O
product | 2-propyl-1,3-dioxane | C(CC)C1OCCCO1 | C7H14O2
